US08865675B2
Synthesis of (6Z,9Z,27Z,30Z)-19-hydroxyhexatriaconta-6,9,27,30-tetraen-18-yl 3-(dimethylamino)propanoate (Compound 22)
To a solution of (6Z,9Z,27Z,30Z)-19-oxohexatriaconta-6,9,27,30-tetraen-18-yl 3-(dimethylamino)propanoate (450 mg, 0.72 mmol) in anhydrous methanol (20 mL) was slowly added sodium borohydride (222 mg, 5.9 mmol). The solution was stirred for 16 hours at room temperature then quenched with water (20 mL). The solution was washed with dichloromethane (3×50 mL) and the combined extracts were dried on magnesium sulfate, filtered and concentrated in vacuo to dryness. The residue was purified by column chromatography (100% ethyl acetate) to afford the title compound as a colorless oil (416 mg, 91%). 1H NMR (400 MHz, CDCl3): δ 5.45-5.28 (m, 8H), 5.02-4.82 (m, 1H), 3.69-3.43 (m, 1H), 2.84-2.45 (m, 8H), 2.30 (s, 6H), 2.09-2.02 (m, 8H), 1.67-1.20 (m, 36H), 0.93-0.86 (m, 6H).

reactant | (6Z,9Z,27Z,30Z)-19-oxohexatriaconta-6,9,27,30-tetraen-18-yl 3-(dimethylamino)propanoate | 0.72 mmol, 450 mg | CN(CCC(=O)OC(CCCCCCC\C=C/C\C=C/CCCCC)C(CCCCCCC\C=C/C\C=C/CCCCC)=O)C | C41H73NO3
reactant | sodium borohydride | 5.9 mmol, 222 mg | [BH4-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | (6Z,9Z,27Z,30Z)-19-hydroxyhexatriaconta-6,9,27,30-tetraen-18-yl 3-(dimethylamino)propanoate | 416 mg, 91% | CN(CCC(=O)OC(CCCCCCC\C=C/C\C=C/CCCCC)C(CCCCCCC\C=C/C\C=C/CCCCC)O)C | C41H75NO3
